US09402841B2
Step A: (R)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
A mixture of (R)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (496 mg, 2.65 mmol) in NMP (4 mL) at 0° C. was treated with NaH (106 mg, 2.65 mmol) and stirred for 1 hour. Next, 1-chloroisoquinoline-3-carbonitrile (500 mg, 2.65 mmol) was added and the reaction mixture was stirred at RT for 15 minutes and then heated at 140° C. for 15 minutes in a microwave reactor. The crude reaction mixture, which contained the title compound, was used directly in the next step.

reactant | (R)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 2.65 mmol, 496 mg | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | NaH | 2.65 mmol, 106 mg | [H-].[Na+]
reactant | 1-chloroisoquinoline-3-carbonitrile | 2.65 mmol, 500 mg | ClC1=NC(=CC2=CC=CC=C12)C#N | C10H5ClN2
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
product | (R)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | C(#N)C=1N=C(C2=CC=CC=C2C1)O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C19H21N3O3
